US05919986
g) (4aS,8aR)-5-[(R)-5-Trimethylsilanyloxy-1,5-dimethyl-hex-3-ynyl]-4a-methyl-1,2,3,4,4a,7,8,8a-octahydro-naphthalen-1-one
446 mg (1.55 mmol) of (4aS,8aR)-5-((R)-5-hydroxy-1,5-dimethyl-hex-3-ynyl)-4a-methyl-3,4,4a,7,8,8a-hexahydro-2H-naphthalen-1-one in 12 ml of abs. CH2Cl2 was treated with 2.03 ml (9 eq.) of TMS-imidazole and kept at RT for 24 h. Pouring onto crushed ice, twofold extraction with ether, washing with water and brine, and drying over sodium sulfate left a crude product, which was purified by flash chromatography (SiO2, hexane/AcOEt=9/1). Thereby, 561 mg of the title compound was obtained as colorless oil.

reactant | (4aS,8aR)-5-((R)-5-hydroxy-1,5-dimethyl-hex-3-ynyl)-4a-methyl-3,4,4a,7,8,8a-hexahydro-2H-naphthalen-1-one | 1.55 mmol, 446 mg | OC(C#CC[C@@H](C)C=1[C@]2(CCCC([C@@H]2CCC1)=O)C)(C)C | C19H28O2
reactant | TMS-imidazole | 2.03 ml, 9 eq. | [Si](C)(C)(C)C=1NC=CN1 | C6H12N2Si
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | (4aS,8aR)-5-[(R)-5-Trimethylsilanyloxy-1,5-dimethyl-hex-3-ynyl]-4a-methyl-1,2,3,4,4a,7,8,8a-octahydro-naphthalen-1-one | 561 mg | C[Si](OC(C#CC[C@@H](C)C=1[C@]2(CCCC([C@@H]2CCC1)=O)C)(C)C)(C)C | C22H36O2Si
